US04035512
In 10 ml. of ethanol is suspended 100 mg. of sodium borohydride and, under stirring, is added 200 mg. of 6-benzyloxy-5-formyl-2-isopropylamino-3,4-dihydro-1(2H)-naphthalenone hydrochloride. The mixture is agitated at room temperature for 2 hours, after which time a saturated solution of sodium chloride and ethyl acetate was added. The ethyl acetate layer is taken, washed with a saturated aqueous solution or sodium chloride and dried over anhydrous sodium sulfate. The solvent is then distilled off under reduced pressure and the residue is recrystallized from ethyl acetate-ethanol. The above procedure provides trans-6-benzyloxy-1-hydroxy-5-hydroxymethyl-2-isopropylamino-1,2,3,4-tetrahydronaphthalene as white crystals. Yield 128 mg.; melting point: 138°-139° C.

reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | 6-benzyloxy-5-formyl-2-isopropylamino-3,4-dihydro-1(2H)-naphthalenone hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C(=C2CCC(C(C2=CC1)=O)NC(C)C)C=O
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-6-benzyloxy-1-hydroxy-5-hydroxymethyl-2-isopropylamino-1,2,3,4-tetrahydronaphthalene | C(C1=CC=CC=C1)OC=1C(=C2CC[C@H]([C@@H](C2=CC1)O)NC(C)C)CO | C21H27NO3
